US04588730
1-Chloro-7-hydroxy-2,4-dinitro-9(10H)-acridinone
A mixture of 5.0 g of 2-chloro-6-[[4-[(4-methoxyphenyl)methoxy]phenyl]amino]-3,5-dinitrobenzoic acid, 10 ml of phosphorus oxychloride, 0.2 ml of N,N-dimethylaniline and 50 ml of 1,2-dichloromthane was heated at reflux for 15 minutes and the reaction mixture was filtered hot. The filter cake was washed with 1,2-dichloroethane to provide the title compound, mp 278°-281° C.

reactant | 2-chloro-6-[[4-[(4-methoxyphenyl)methoxy]phenyl]amino]-3,5-dinitrobenzoic acid | 5.0 g | ClC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C21H16ClN3O8
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 0.2 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 1-Chloro-7-hydroxy-2,4-dinitro-9(10H)-acridinone | ClC1=C(C=C(C=2NC3=CC=C(C=C3C(C12)=O)O)[N+](=O)[O-])[N+](=O)[O-] | C13H6ClN3O6
